US08258175B2
3-Chloro-3-(4-chlorophenyl)-2-phenethylisoindolin-1-one (256 mg, 0.687 mmol) was reacted with 1,3-cyclopentanediol (0.32 mL, 3.44 mmol.) as for general procedure F and the solvent evaporated under vacuum to leave a clear oil of 3-(4-chlorophenyl)-3-(3-hydroxycyclopentyloxy)-2-phenethylisoindolin-1-one. This was purified by HPLC (76.0 mg, 0.170 mmol., 25%). Rf 0.13 (40:60 EtOAc:petrol). IR: 2359, 1958, 1684, 1601, 1491, 1464 cm−1. 1H NMR (300 Hz, CDCl3); δ 0.95-2.04 (m, 6H, cyclopentanediol C—H), 2.24 (m, 1H, N—CH2—CH2—Ar), 2.81 (m, 1H, N—CH2—CH2—Ar), 3.19 (m, 1H, N—CH2), 3.42 (m, 1H, N—CH2), 3.70-3.83 (m, 1H, HO—C—H), 4.32 (m, 0.5H, C—O—C-h), 4.43 (m, 0.5H, C—O—C—H), 6.95-7.23 (m, 11H, Ar), 7.45 (m, 2H, Ar), 7.81 (m, 1H, Ar). 13C NMR (75 Hz, CDCl3); δ 31.7, 31.9, 32.2, 33.7, 33.9, 34.0, 34.6, 32.7, 35.2 (cyclopentane C), 41.6, 41.7, 41.8, 42.0, 42.1, 43.7, 44.1, 45.7, 50.9 (N—CH2—CH2) 72.3, 72.6, 73.0, 73.2, 73.9, 74.0 (cyclopentane C—O), 94.6, 94.7 (quaternary O—C—N), 123.0, 123.8, 123.9, 124.1, 124.2, 126.8, 128.1, 128.3, 128.4, 128.5, 128.9, 129.0, 129.1, 129.2, 129.2, 130.4, 130.4, 130.4, 132.8, 133.1, 134.9, 137.8, 137.8, 138.3, 139.3, 146.3, 146.3, 149.1 (Ar), 168.4, 168.6, 168.7 (C═O). LC/MS-ES+ m/z 480.2, 478.1, 458.1, 456.1, 293.0. Anal. Calcd. for C28H22ClNO3.0.25H2O: C, 73.04; H, 4.93; N, 3.04%. Found C, 73.24; H, 5.00; N, 3.22%. HRMS (EI) m/z: 455.1288. Found 455.1297.

reactant | 3-Chloro-3-(4-chlorophenyl)-2-phenethylisoindolin-1-one | 0.687 mmol, 256 mg | ClC1(N(C(C2=CC=CC=C12)=O)CCC1=CC=CC=C1)C1=CC=C(C=C1)Cl | C22H17Cl2NO
reactant | 1,3-cyclopentanediol | 3.44 mmol, 0.32 mL | C1(CC(CC1)O)O | C5H10O2
product | 3-(4-chlorophenyl)-3-(3-hydroxycyclopentyloxy)-2-phenethylisoindolin-1-one | ClC1=CC=C(C=C1)C1(N(C(C2=CC=CC=C12)=O)CCC1=CC=CC=C1)OC1CC(CC1)O | C27H26ClNO3
